US05728697
To 2,3-dihydro-4,5-diphenyl-1H-imidazol-2-one (4.76 g, 20 mmol) in 50 mL DMF was added to a suspension of Nail (0.8 g, 20 mmol) in 25 mL DMF. The suspension was stirred at ambient temperatures for 30 minutes, then heated to 50° C. for 30 minutes. A solution of methyl 3-bromomethylbenzoate (2.86 g, 12.5 mmol) in 20 mL DMF was then added and the reaction stirred for 10 min at 50° C. The mixture was poured into 1 N HCl, filtered, washed with water and dried. Chromatography on silica gel (2% EtOH in 7:3 methylene chloride/ethyl acetate) afforded 1.2 g of 3-(3-methoxycarbonylphenyl)methyl-4,5-diphenyl-1H-imidazol-2-one as a white solid.

reactant | 2,3-dihydro-4,5-diphenyl-1H-imidazol-2-one | 20 mmol, 4.76 g | C1(=CC=CC=C1)C=1NC(NC1C1=CC=CC=C1)=O | C15H12N2O
reactant | methyl 3-bromomethylbenzoate | 12.5 mmol, 2.86 g | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
reactant | HCl | 1 N | Cl | ClH
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-(3-methoxycarbonylphenyl)methyl-4,5-diphenyl-1H-imidazol-2-one | 1.2 g | COC(=O)C=1C=C(C=CC1)CN1C(NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)=O | C24H20N2O3
